US06187801B1
3 g (14.2 mmol) of 5-bromoindan-1-one are suspended with 2.22 g (14.2 mmol) of 3-chlorophenylboronic acid and 3 g (28.3 mmol) of sodium carbonate in a mixture of 100 ml of toluene, 20 ml of ethanol and 20 ml of water. Under an argon atmosphere, 160 mg (7.1 mmol) of palladium(II) acetate and 373 mg (14.2 mmol) of triphenylphosphine are added. The mixture is heated under reflux for 3 h, and then the ethanol content of the solvent mixture is removed in vacuo. 40 ml of 0.5 N sodium hydroxide solution are added, and the mixture is stirred at room temperature for 10 min. The precipitate is filtered off with suction; the filtrate is washed with 40 ml of water until neutral and then washed with concentrated brine (3×40 ml), dried over magnesium sulfate, concentrated in vacuo and purified by chromatography on silica gel with toluene/ethyl acetate 20/1. 5-(3-Chlorophenyl)indan-1-one is obtained with a melting point of 113° C.

reactant | 5-bromoindan-1-one | 14.2 mmol, 3 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 3-chlorophenylboronic acid | 14.2 mmol, 2.22 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 28.3 mmol, 3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 14.2 mmol, 373 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 7.1 mmol, 160 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(3-Chlorophenyl)indan-1-one | ClC=1C=C(C=CC1)C=1C=C2CCC(C2=CC1)=O | C15H11ClO
